US07935722B2
Cyclopropanecarboxylic acid[6-(methoxyimino-methyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide
Prepare the title compound from cyclopropanecarboxylic acid(6-formyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-amide (Preparation 72) (6.50 g, 57.3 mmol) methoxylamine hydrochloride (4.81 g, 57.6 mmol) and sodium hydroxide (1.84 g, 46.0 mmol), by essentially following procedures as described in Example 202 to obtain 6.00 g (84%) of product. MS (ES): m/z 312 (M+1).

reactant | cyclopropanecarboxylic acid(6-formyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-amide | 57.3 mmol, 6.50 g | C(=O)C=1C=C2C=3CC(CCC3NC2=CC1)NC(=O)C1CC1 | C17H18N2O2
reactant | methoxylamine hydrochloride | 57.6 mmol, 4.81 g | Cl.O(C)N
reactant | sodium hydroxide | 46.0 mmol, 1.84 g | [OH-].[Na+]
product | Cyclopropanecarboxylic acid[6-(methoxyimino-methyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | CON=CC=1C=C2C=3CC(CCC3NC2=CC1)NC(=O)C1CC1 | C18H21N3O2
